US04309443
N-{2-(4-{(E)-2-Carbomethoxyethenyl}phenyl)-1-methylethyl}-2-hydroxy-2-(3-chlorophenyl)ethanamine
This was prepared in an identical manner to the compound described in Example 1 using 2-hydroxy-2-(3-chlorophenyl) ethanamine (5.45 g) and 4-{(E)-2-carbomethoxyethenyl}phenylpropan-2-one (7.11 g). The resulting oil was chromatographed on Kieselgel 60. Elution with 5% methanol-chloroform gave the title compound, 9.8 g τ (CDCl3) 8.9 (3H, d, J=6 Hz), 6.8-7.5 (7H, m, 2H disappears with D2O), 6.25 (3H, s), 5.4 (1H, m), 3.6 (1H, d, J=16 Hz), 2.5-2.9 (8H, m), 2.35 (1H, d, J=16 Hz).

reactant | 2-hydroxy-2-(3-chlorophenyl) ethanamine | 5.45 g | OC(CN)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | 4-{(E)-2-carbomethoxyethenyl}phenylpropan-2-one | 7.11 g | C(=O)(OC)/C=C/C1=CC=C(C=C1)CC(C)=O | C13H14O3
product | N-{2-(4-{(E)-2-Carbomethoxyethenyl}phenyl)-1-methylethyl}-2-hydroxy-2-(3-chlorophenyl)ethanamine | C(=O)(OC)/C=C/C1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)Cl)O | C21H24ClNO3
